Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left leg swelling pain
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Mr. ___ is a ___ male with history of
metastatic lung adenocarcinoma to the brain s/p WBRT s/p 4 
cycles
of ___ now on pemetrexed maintenance who presents
with left leg swelling and pain.

Patient reports pain in his left calf and swelling for the past 
1
week. Pain with any active extension or flexion of his left 
foot.
Patient reports an episode of syncope in the context of 
shortness
of breath about 3 weeks ago. No recent syncope during the past
week but did feel dizzy which resolved spontaneously 4 days ago.
He notes intermittent chest pain. He has mild shortness of
breath. He also has had mild abdominal pain. Patient was 
supposed
to go to ___ for his son's wedding but had to cancel the 
trip
at the airport due to the pain in his leg. Per mother, patient
has had overall failure to thrive, general malaise, and is
requesting an admission that she does not feel he is managing
well at home.

On arrival to the ED, initial vitals were 98.1 89 124/70 16 99%
RA. Exam notable for left leg swelling, calf tenderness to
palpation, and positive ___ sign. Labs were notable for WBC
10.7, H/H 12.6/38.3, Plt 135, INR 1.2, Na 140, K 4.0, BUN/Cr
___. Left lower extremity ultrasound showed extensive
occlusive left lower extremity deep vein thrombosis. Head CT
showed overall stable brain mets without evidence of 
intracranial
hemorrhage. CTA chest showed right segmental pulmonary emboli 
and
increase in size of pulmonary metastases. Patient was not 
started
on anticoagulation. Prior to transfer vitals were 98.5 82 112/61
16 93% RA.
On arrival to the floor, patient reports mild headache and ___
abdominal pain. He denies fevers/chills, night sweats, headache,
vision changes, weakness/numbness, cough, hemoptysis,
palpitations, nausea/vomiting, diarrhea, hematemesis,
hematochezia/melena, dysuria, hematuria, and new rashes.

REVIEW OF SYSTEMS: A complete 10-point review of systems was
performed and was negative unless otherwise noted in the HPI.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___: Developed fatigue and headaches which gradually became
worse. Also had occasional confusion.
- ___: Presented to OSH where head CT showed multiple 
brain
masses and he was transferred to ___. He was seen by
neurosurgery and there was no role for surgical intervention.
- ___: Underwent biopsy of right sided lung nodule by ___.
Path showed adenocarcinoma.
- ___: WBRT
- ___: ___ C1D1 
- ___: ___ C2D1
- ___: Treatment held due to ___ esophagitis and patient
admitted to hospital for poor PO intake. 
- ___: ___ C3D1
- ___: ___ C4D1
- ___: pemetrexed maintenance C1
- ___: pemetrexed maintenance C2
- ___: CT torso with stable disease; pemetrexed maintenance
C3
- ___: Hold treatment given fatigue thought related to
chemotherapy.

PAST MEDICAL HISTORY:
- Lung Cancer, as above
- COPD
- HLD 
- hernia  
- Myofascial pain syndrome with shoulder and back pain, seen in
pain clinic  
- Neck injury with L hand numbness after a fall down a flight of
stairs in ___
- s/p C3-5 cervical spine fusion in ___ at ___ 
- s/p right sided hernia repair x 2 

 
Social History:
___
Family History:
Father passed away of lung cancer at age ___.
Mother is in her ___ in good health. Grandmother had "bone"
cancer and passed away in her ___.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: Temp 97.9, BP 113/73, HR 84, RR 18, O2 sat 88% RA.
GENERAL: Fatigue-appearing man, flat affect, in no distress,
lying in bed comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, diffuse tenderness without rebound or guarding,
non-distended, positive bowel sounds.
EXT: Warm, well perfused, left leg swelling and tenderness ot
palpation.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
SKIN: No significant rashes.

DISCHARGE PHYSICAL EXAM:
VS: Temp 98.7, BP 112/72 , HR 80, RR 18, O2 sat 93 RA.
GENERAL: NAD
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, diffuse tenderness without rebound or guarding,
non-distended, positive bowel sounds.
EXT: Warm, well perfused, left leg swelling and tenderness ot
palpation.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
SKIN: No significant rashes.

 
Pertinent Results:
Admission Labs:
===============
___ 10:30PM BLOOD WBC-10.7* RBC-4.20* Hgb-12.6* Hct-38.3* 
MCV-91 MCH-30.0 MCHC-32.9 RDW-13.0 RDWSD-42.8 Plt ___
___ 10:30PM BLOOD Neuts-56.3 Lymphs-17.8* Monos-10.2 
Eos-13.3* Baso-0.9 Im ___ AbsNeut-6.02 AbsLymp-1.90 
AbsMono-1.09* AbsEos-1.42* AbsBaso-0.10*
___ 10:30PM BLOOD ___ PTT-28.7 ___
___ 10:30PM BLOOD Glucose-99 UreaN-11 Creat-0.6 Na-140 
K-4.0 Cl-99 HCO3-26 AnGap-15
___ 10:30PM BLOOD ALT-89* AST-58* LD(LDH)-495* AlkPhos-183* 
TotBili-0.3
___ 10:30PM BLOOD cTropnT-<0.01
___ 10:30PM BLOOD proBNP-53
___ 10:30PM BLOOD Albumin-4.2 Calcium-10.1 Phos-4.3 Mg-1.9

Discharge Labs: 
===============
___ 07:55AM BLOOD WBC-9.5 RBC-4.41* Hgb-13.3* Hct-39.6* 
MCV-90 MCH-30.2 MCHC-33.6 RDW-12.7 RDWSD-41.5 Plt ___
___ 07:55AM BLOOD ___ PTT-31.4 ___
___ 07:55AM BLOOD Glucose-88 UreaN-14 Creat-0.7 Na-140 
K-3.8 Cl-98 HCO3-26 AnGap-16
___ 07:55AM BLOOD ALT-96* AST-49* AlkPhos-199* TotBili-0.3
___ 07:55AM BLOOD Calcium-10.1 Phos-3.7 Mg-2.0

Imaging: 
========
___ CTA CHEST:
1. Right upper and lower lobe segmental pulmonary emboli.  No 
evidence of 
right heart strain. 
2. Interval worsening of right middle and lower lobe masses with 
more proximal 
obstruction of the right middle lobe bronchus resulting in 
atelectasis and 
post obstructive pneumonia. 
3. Increased size of a precarinal lymph node.  Stage T3 
vertebral metastasis. 

___ MR ___ & W/O CONT:
1. Diffuse bone metastasis throughout the thoracic and lumbar 
spine is 
identified. 
2. No evidence of spinal cord compression.  There is cortical 
expansion of 
tumor from the T10 vertebral body into the epidural space 
without significant 
spinal canal narrowing.  No high-grade neural foraminal 
narrowing. 
3. Additional findings as described above. 

___ MR ___ &W/O CONTR:
1. Diffuse bone metastasis throughout the thoracic and lumbar 
spine is 
identified. 
2. No evidence of spinal cord compression.  There is cortical 
expansion of 
tumor from the T10 vertebral body into the epidural space 
without significant 
spinal canal narrowing.  No high-grade neural foraminal 
narrowing. 
3. Additional findings as described above. 

___ SKELETAL SURVEY:
AP pelvis and femurs: No lytic or blastic lesions are 
identified.  A lesion in the right femoral neck seen on previous 
CT scan from ___ is not visible on this x-ray 
study.  Clips are seen within the pelvis. Thoracic and lumbar 
spine: Several sclerotic lesions are seen in the thoracic spine, 
confirmatory of the MRI from the same day.  There is also a 
sclerotic lesion within the L5 vertebral body.  This is also 
seen to better advantage on the MRI examination. Degenerative 
changes are evident.  Postoperative changes are noted in the 
cervical spine. 
Humeri: No lytic or blastic lesions are identified.  
Degenerative changes are evident involving the left glenohumeral 
joint. 
Lateral skull x-ray: No lytic or blastic lesions are identified. 
 The patient is edentulous. 

 
Brief Hospital Course:
___ tobacco smoker with h/o COPD, chronic facila pain syndrome 
and s/p neck vertebral fusion surgery s/p ___ trauma who 
presented to OSH (___) with headaches, confusion and 
personality changed of 3 weeks duration and had head CT which 
demonstrated "Multiple prominent areas of parenchymal 
hypodensity involving the gray and white matter in the right 
frontoparietal right frontal, right temporal and left frontal 
regions, suggesting vasogenic edema. Superimposed subacute 
infarctions cannot be excluded. 2: There is also suggestion of 
possible hyperdense mass lesion in the right temporoparietal 
region, worrisome for neoplasm". Referred to ___ ED where he 
was afebrile and hemodynamically stable but with sinus 
bradycardia. MRI brain showed multiple enhancing intracranial 
lesions involving both cerebral cortices highly concerning for 
metastatic disease and c/b vasogenic edema and midline shift to 
the left. Admitted to medicine where he was managed with PO 
dexamethasoneand prophylactic po levetiracetam following IV 
loads as well as home PO oxycodone and IV PRN hydromorphone for 
pain control. Underwent CT chest which was notable for 5 lung 
nodules ranging from 6 mm to 2.5 cm in diameter any one of which 
could be a primary bronchogenic carcinoma, but the number could 
suggests metastases from an extrathoracic primary malignancy. CT 
abd/pelvis did not show obvious primary but did show omental fat 
stranding and diffuse mild omental thickening, without masses, 
but which likely represent metastatic disease. Underwent ___ 
guided biopsy of right pulmonary nodule on ___ which he 
tolerated well. Cytology of brushing was negative for malignant 
cells and biopsy results are pending at discharge. Patient was 
reviewed by oncology who provided guidance about their plan for 
ongoing post d/c follow-up and their contact details. 

Problems Summary 

- suspected Brain metastases per MRI

- right lung nodule per CT chest: likley primary lung cancer, 
biopsy pending. 

- omental stranding/thickening per CT abdomen: ? metastatic 
disease

- right inguinal seroma at site of previous inguinal hernia 
repair 

- Sinus Bradycardia: ___ intracranial process/increased ICP? no 
other signs of ___ reflex. Rate on previous ECG from ___ 
is 57

- hyperglycemia: no known history of DM. likely ___ to high-dose 
steroids. Was put on conservative ISS but did not require 
insulin doses. 

- headaches - ___ to brain lesions

- cognitive impairment - ___ brain lesions. Per OT review during 
this admission has "evident impairments in attention, memory, 
and executive
function. At this time, recommend pt d/c home w/ direct
supervision for IADLs (medication management, cooking, community
integration).". Patient was ambulating independently throughout 
admission and had no acute ___ needs. 

- mild leukocytosis: ___ high dose steroids. 

Chronic: 

- h/o TOBACCO USE: on nicotine patches during this admission. 
- chronic head aches
- HLD

Patient was discharged with the following plan: 

- patient's wife to provide direct supervision for IADLs 
(medication management, cooking, community integration). 
- continue PO oxycodone 20mg Q6H:PRN home regimen + PO 
hydromorphone PRN ___ records reviewed prior to discharge)
- continue PO dexamethasone 4 mg q 6 hours 
- continue keppra 1g BID
- continue nicotine patches 
- continue ensure enlive TID and MVI with minerals 
- f/u with oncology who will follow-up on lung biopsy results 
and coordinate further care as needed including engagement of 
neuro-onc/rad-onc/neurosurgery as necessary. 
- continue to address goals of care following with tissue biopsy 
results and as part of the big-picture prognosis discussion once 
diagnosis confirmed. Code status presumed full during this 
admission and not discussed. 
- consider outpatient cognitive neurology consult to further 
assess cognition, per oncology and PCP discretion
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dexamethasone 2 mg PO DAILY 
2. Diazepam 5 mg PO BID:PRN pain 
3. Docusate Sodium 100 mg PO BID:PRN constipation 
4. FoLIC Acid 1 mg PO DAILY 
5. LevETIRAcetam 1000 mg PO Q12H 
6. Morphine SR (MS ___ 60 mg PO Q12H 
7. Omeprazole 40 mg PO BID 
8. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
9. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting   
10. Senna 8.6 mg PO BID:PRN constipation  
11. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
12. Tamsulosin 0.4 mg PO QHS 
13. Vitamin D ___ UNIT PO DAILY 
14. OxyCODONE (Immediate Release) 20 mg PO Q4H:PRN Pain - 
Moderate 
15. Celecoxib 200 mg oral BID 
16. MethylPHENIDATE (Ritalin) 10 mg PO BID 
17. Mirtazapine 30 mg PO QHS 
18. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Enoxaparin Sodium 60 mg SC Q12H 
RX *enoxaparin 60 mg/0.6 mL 0.6 mL SC every twelve (12) hours 
Disp #*60 Syringe Refills:*0 
2.  Morphine SR (MS ___ 60 mg PO Q8H 
RX *morphine 60 mg 1 capsule(s) by mouth three times a day Disp 
#*90 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 30 mg 1 tablet(s) by mouth q4h PRN Disp #*70 
Tablet Refills:*0 
4.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
5.  Dexamethasone 2 mg PO DAILY  
6.  Diazepam 5 mg PO BID:PRN pain  
7.  Docusate Sodium 100 mg PO BID:PRN constipation  
8.  FoLIC Acid 1 mg PO DAILY  
9.  LevETIRAcetam 1000 mg PO Q12H  
10.  MethylPHENIDATE (Ritalin) 10 mg PO BID  
11.  Mirtazapine 30 mg PO QHS  
12.  Omeprazole 40 mg PO BID  
13.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  
14.  Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting    
15.  Senna 8.6 mg PO BID:PRN constipation   
16.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
17.  Tamsulosin 0.4 mg PO QHS  
18.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Deep Vein Thrombosis 
Pulmonary Embolism 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ with leg swelling and shortness of 
breath. You were found to have a blood clot in your left leg and 
both lungs. You were started on a blood thinner called lovenox 
to treat this and prevent future blood clots. Please continue to 
take this. 

Your pain regimen was also increased so that you can take up to 
30mg of oxycodone every 4 hours as needed for pain. You will 
also be taking the long-acting MS ___ three times a day 
instead of twice a day. We have confirmed with your pharmacy 
that these changes will not be too expensive, but please notify 
your primary medical team immediately if you are having any 
issues obtaining your medications. Lastly, you will need to stop 
taking Celebrex (celecoxib) because it interacts with Lovenox. 

Please follow up with all appointments as listed below.  

It was a pleasure taking care of you, 
Your ___ Oncology Team 
 
Followup Instructions:
___